US04931196
Example 3 Preparation of 2,2'-[2-dodecylthio-1,3,5-triazine-4,6-diylbis-(thio)]bis dodecanoic acid.
A stirred solution of KOH (5.6 g; 0.1 mole) in ethanol (100 ml) is cooled to 5-10° C. and treated with trithiocyanuric acid (4.42 g; 0.025 mole). After stirring for 30 minutes, the reaction mixture is treated with 2-bromododecanoic acid (13.9 g; 0.05 mole) in small portions over 10-15 minutes. The resulting white suspension is stirred for a further 30 minutes at 10° C. and is then allowed to warm to ambient temperature. Upon reaching ambient temperature, the reaction mixture is heated to reflux and maintained at this temperature for 3 hours. The reaction mixture is then cooled to 5° C. and treated with a solution of KOH (1.4 g; 0.025 mole) in ethanol (50 ml) followed by dodecyl bromide (6.2 g; 0.025 mole). The reaction mixture is allowed to warm to ambient temperature and is then heated to reflux and maintained at this temperature for 2 hours. The reaction mixture is cooled to ambient temperature and the solvent removed under reduced pressure. The residue is suspended in water (100 ml and acidified with concentrated HCl to pH 3. The acidified aqueous suspension is then extracted with either (200 ml) and the ether extract is washed with water (3×50 ml). The extract is dried over MgSO4, filtered, then evaporated to yield 14.7 g (79 %) of a yellow viscous oil.

reactant | KOH | 0.1 mole, 5.6 g | [OH-].[K+]
reactant | trithiocyanuric acid | 0.025 mole, 4.42 g | N1C(=S)NC(=S)NC1=S | C3H3N3S3
reactant | 2-bromododecanoic acid | 0.05 mole, 13.9 g | BrC(C(=O)O)CCCCCCCCCC | C12H23BrO2
reactant | KOH | 0.025 mole, 1.4 g | [OH-].[K+]
reactant | dodecyl bromide | 0.025 mole, 6.2 g | C(CCCCCCCCCCC)Br | C12H25Br
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,2'-[2-dodecylthio-1,3,5-triazine-4,6-diylbis-(thio)]bis dodecanoic acid | 14.7 g, 79 % | C(CCCCCCCCCCC)SC1=NC(=NC(=N1)SC(C(=O)O)CCCCCCCCCC)SC(C(=O)O)CCCCCCCCCC | C39H71N3O4S3
